US07635711B2
Synthesis of 2,4,6-Trimethyl-N-[2,2,2-trifluoro-1-(4-hydroxy-1H-indol-3-ylmethyl)ethyl]benzenesulfonamide
To a stirred solution of 80 mg (0.15 mmol) of N-[1-(4-benzyloxy-1H-indol-3-ylmethyl)-2,2,2-trifluoroethyl]-2,4,6-trimethylbenzenesulfonamide in 5 mL of methanol was added 20 mg of 10% palladium on carbon followed by 48.7 mg (0.77 mmol) of ammonium formate. The reaction mixture stirred at room temperature for 1 hour and was then diluted with methanol, filtered through CELITE® filter aid, and concentrated in vacuo. The residue was diluted with cold water and the precipitate was filtered, washed with water, and dried to afford a white solid which was purified by preparative TLC eluting with ethyl acetate-hexanes (4:6) to afford 30 mg (45%) of the title compound as an off-white solid.

reactant | N-[1-(4-benzyloxy-1H-indol-3-ylmethyl)-2,2,2-trifluoroethyl]-2,4,6-trimethylbenzenesulfonamide | 0.15 mmol, 80 mg | C(C1=CC=CC=C1)OC1=C2C(=CNC2=CC=C1)CC(C(F)(F)F)NS(=O)(=O)C1=C(C=C(C=C1C)C)C | C27H27F3N2O3S
reactant | ammonium formate | 0.77 mmol, 48.7 mg | C(=O)[O-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | 2,4,6-Trimethyl-N-[2,2,2-trifluoro-1-(4-hydroxy-1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 30 mg, 45% | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC(=C12)O | C20H21F3N2O3S
